US07176321B2
As specific representative example of the producing method of the invention, barium hydroxide and a 25% (W/V) aqueous solution of sodium hydroxide are added to a methanol suspension of 3-benzoylamino-4-(1-pyrazolyl)-1-(2,4,6-trichlorophenyl)-5-pyrazolone, and the reaction mixture is agitated at about 70° C. After the raw material is consumed, an excessive amount of concentrated hydrochloric acid is added to the reaction system, and the resulting barium chloride precipitate is eliminated by filtration, and the filtrate is extracted twice with toluene, and the aqueous phase is neutralized with a 25% (W/V) aqueous solution of sodium hydroxide to adjust the pH value of the system to 3.5. Resulting crystals are separated by filtration, washed and dried. Thus, a desired 3-amino-4-(1-pyrazolyl)-1-(2,4,6-trichlorophenyl)-5-pyrazolone is isolated.

reactant | barium hydroxide | [OH-].[Ba+2].[OH-]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 3-benzoylamino-4-(1-pyrazolyl)-1-(2,4,6-trichlorophenyl)-5-pyrazolone | C(C1=CC=CC=C1)(=O)NC=1NN(C(C1N1N=CC=C1)=O)C1=C(C=C(C=C1Cl)Cl)Cl | C19H12Cl3N5O2
solvent | methanol | CO | CH4O
product | 3-amino-4-(1-pyrazolyl)-1-(2,4,6-trichlorophenyl)-5-pyrazolone | NC=1NN(C(C1N1N=CC=C1)=O)C1=C(C=C(C=C1Cl)Cl)Cl | C12H8Cl3N5O
